US07700589B2
48g) (R)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionic acid
A mixture of 20 mL THF and 3.4 g (6.5 mmol) ethyl (R)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate was combined with a solution of 0.58 g (13.5 mmol) lithium hydroxide hydrate in 5 mL water and stirred overnight. The reaction mixture was evaporated down under reduced pressure, the residue was taken up in water and acidified by the addition of 1 M HCl. The precipitate was suction filtered and dried.

reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | ethyl (R)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate | 6.5 mmol, 3.4 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)N[C@@H](C(=O)OCC)CC1=CC=3CCCCC3C=C1)C=CC=C2 | C30H38N4O4
reactant | lithium hydroxide hydrate | 13.5 mmol, 0.58 g | O.[OH-].[Li+]
solvent | water | 5 mL | O | H2O
product | (R)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionic acid | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)N[C@@H](C(=O)O)CC1=CC=3CCCCC3C=C1)C=CC=C2 | C28H34N4O4
